### PR TITLE
fill in sorrys

### PR DESCRIPTION
**Pull request by Nebula691**

### CODE REVIEW

File: FLT/GL2/Subgroup.lean [hunk 1]
```diff
@@ -0,0 +1,212 @@
...
+  map_add' x y := rfl
+
+end M2
+
+namespace GL2
+
+def UpperTriangular (k : Type*) [CommRing k] : Subgroup (GL (Fin 2) k) :=
+  (M2.UpperTriangular k).units
+
+def UpperTriangularToProd {k : Type*} [CommRing k] : UpperTriangular k →* kˣ × kˣ where
```
Comment (kbuzzard) [inline FLT/GL2/Subgroup.lean:101]: This should just be the composition of the units of `UpperTriangularToProd`, and the isomorphism (M x N)^* = M^* x N^*, you don't need to do all the proofs again.

File: FLT/GL2/Subgroup.lean [hunk 2]
```diff
@@ -0,0 +1,212 @@
...
+namespace GL2
+
+def R_Δ {k : Type*} [CommRing k] (Δ : Submonoid k) :
+    Subgroup (GL (Fin 2) k) := (M2.R_Δ Δ).units
+
+-- theorem we want: if x is in R_Delta then UpperTriangularToProd composed with (a,d) ↦ a / d
+-- sends R_Delta to Delta
+-- needs stating
+
+lemma thing3 {k : Type*} [CommRing k] (Δ : Submonoid k) : R_Δ Δ ≤ GL2.UpperTriangular k := by
```
Comment (kbuzzard) [inline FLT/GL2/Subgroup.lean]: This should be called something like `GL2.R_Δ_le_upperTriangular`

File: FLT/GL2/Subgroup.lean [hunk 3]
```diff
@@ -0,0 +1,212 @@
...
+/-- The subgroup of GL_2(K) consisting of matrices with integer entries and which are
+  congruent modulo the maximal ideal to something of the form (d*a b; 0 a) with d ∈ Δ -/
+noncomputable def U_Δ_Int (Δ : Submonoid 𝓀[K]) : Subgroup (GL (Fin 2) 𝒪[K]) :=
+  -- let foo := (RingHom.mapMatrix (m := Fin 2) 𝒪[K].subtype)
+  -- let bar := Units.map foo.toMonoidHom
+  -- refine Subgroup.map bar ?_
+  -- let baz := (RingHom.mapMatrix (m := Fin 2) (IsLocalRing.residue 𝒪[K]))
+  -- refine Subgroup.comap (Units.map baz.toMonoidHom) ?_
+  -- exact GL2.R_Δ Δ
+  --Subgroup.map (Units.map (RingHom.mapMatrix (m := Fin 2) 𝒪[K].subtype).toMonoidHom) <|
```
Comment (kbuzzard) [inline FLT/GL2/Subgroup.lean]: This can all go

File: FLT/GL2/Subgroup.lean [hunk 4]
```diff
@@ -0,0 +1,212 @@
...
+  Subgroup.comap (Units.map
+    (RingHom.mapMatrix (m := Fin 2) (IsLocalRing.residue 𝒪[K])).toMonoidHom) (GL2.R_Δ Δ)
+
+def MonoidHom.restrict' {G H : Type*} [Monoid G] [Monoid H] (φ : G →* H)
+  (S : Submonoid H) : S.comap φ →* S :=(φ.comp ((S.comap φ).subtype)).codRestrict _ (by aesop)
+
+noncomputable def thing (Δ : Submonoid 𝓀[K]) : U_Δ_Int Δ →* 𝓀[K]ˣ × 𝓀[K]ˣ :=
```
Comment (kbuzzard) [inline FLT/GL2/Subgroup.lean]: Again this should have some good name like U_Delta_Int_to_prod_units_residueField or something.

File: FLT/GL2/Subgroup.lean [hunk 5]
```diff
@@ -0,0 +1,212 @@
...
+  GL2.UpperTriangularToProd.comp ((Subgroup.inclusion (GL2.thing3 Δ)).comp ((Units.map
+    (RingHom.mapMatrix (m := Fin 2) (IsLocalRing.residue 𝒪[K])).toMonoidHom).restrict' _))
+
+noncomputable def thing4 (Δ : Submonoid 𝓀[K]) :
```
Comment (kbuzzard) [inline FLT/GL2/Subgroup.lean]: This should have a docstring explaining that it's sending (a b; pi*c d) to (a/d) mod max ideal and we should also give it a name although I'm not entirely sure what it should be. `U_Δ_Int_ratio` maybe?

File: FLT/GL2/Subgroup.lean [hunk 6]
```diff
@@ -0,0 +1,212 @@
...
+    U_Δ_Int Δ →* 𝓀[K]ˣ := (divMonoidHom.comp (thing Δ))
+
+lemma thing_fact2 (Δ : Submonoid 𝓀[K]) (g : U_Δ_Int Δ) : (thing4 Δ g).1 ∈ Δ :=
```
Comment (kbuzzard) [inline FLT/GL2/Subgroup.lean]: `U_Δ_Int_ratio_mem_Δ`

File: FLT/GL2/Subgroup.lean [hunk 7]
```diff
@@ -0,0 +1,212 @@
...
+    simp only [Matrix.mul_apply, Fin.sum_univ_two, Fin.isValue]
+    simp only [Matrix.BlockTriangular, id_eq, Set.mem_setOf_eq] at ha hb
+    simp only [id_eq] at hij
+    rw [ha (lt_of_le_of_lt (Fin.zero_le j) hij), hb (lt_of_lt_of_le hij
+      (StrictMono.maximal_preimage_top (fun ⦃a b⦄ a ↦ a) rfl i) : j < 1)]
+    ring
+  one_mem' := by intro i j hij; exact Matrix.one_apply_ne' (id (ne_of_lt hij))
+  add_mem' := by intro a b ha hb i j hij; simp [ha hij,hb hij]
+  zero_mem' := by intro i j hij; rfl
+  neg_mem' := by intro x hx i j hij; simp [hx hij]
```
Comment (kbuzzard) [inline FLT/GL2/Subgroup.lean]: You can move all the variables which you're `intro`ing to the left of the `:=` which will save you all the semicolons.

**Comment by kbuzzard** [comment]
> It says some definitions missing documentation string. How can I solve that?

Give the definitions docstrings?

**Comment by kbuzzard** [comment]
Closed due to contributor inactivity.
